US07157447B2
3-m-Tolyl-3-trifluoromethyl-3H-diazirine.
To a cold stirring solution of 3-m-tolyl-3-trifluoromethyl-diaziridine (2.0 g, 10 mmol. prepared using the methods described in Doucet-Personeni C. et al., J. Med. Chem., 2001, 44, 3203 and Nassal, M. Liebigs Ann. Chem. 1983, 1510–1523 or in Stromgaard, K et al., J. Med. Chem., 2002, 45, 4038–46) in ethanol (20 mL) was added triethylamine (1.5 g, 15 mmol). To this mixture was added tert-butyl hypochlorite (3.25 g, 30 mmol), and the mixture stirred for 5 min. This mixture was poured into 10% aqueous sodium sulfite (100 mL), and extracted with ether. The ether extract was washed with brine, dried (MgSO4), filtered and concentrated. The residue was purified by column chromatography (SiO2, pentane) to provide 1.6 g (Yield 80%) of the title compound. 1H NMR (300 MHz, CDCl3) δ ppm: 2.33 (3H, s) 6.90–7.03 (2H, m) 7.15–7.31 (2H, m).

reactant | 3-m-tolyl-3-trifluoromethyl-diaziridine | C1(=CC(=CC=C1)C1(NN1)C(F)(F)F)C | C9H9F3N2
reactant | triethylamine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl hypochlorite | 30 mmol, 3.25 g | ClOC(C)(C)C | C4H9ClO
reactant | sodium sulfite | 100 mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-m-Tolyl-3-trifluoromethyl-3H-diazirine | 1.6 g, Yield 80% | C1(=CC(=CC=C1)C1(N=N1)C(F)(F)F)C | C9H7F3N2
